US05166198
c) Diethyl [4-(t-butyldimethylsilyloxy)-3-hydroxybutyl]phosphonate
To a solution of diethyl 3,4-dihydroxybutylphosphonate (8.5 g, 0.038 mol) in dry tetrahydrofuran (200 ml) was added imidazole (5.25 g, 0.077 mol). After stirring at ambient temperature for 2 minutes, t-butyldimethysilyl-chloride (5.8 g, 0.038 mol) was added. After 18 hours, the solution was filtered and the filtrate evaporated to give a colorless oil. The oil was dissolved in ether, and washed with water. The organic phase was dried (magnesium sulphate) and evaporated to give an oil which was purified by chromatography on silica gel (dichloromethane-methanol (98:2) as eluant). The title compound was obtained as an oil (8 g, 62%). IR:υmax (film), 3400, 2940, 2860, 1250, 1170, 960, 840, 780 cm-1. 1H NMR: δH (CDCl3) 0.00 (6H, s, SiMe2), 0.83 (9H, s, SiBut), 1.25 (6H, t, J=7Hz, (OCH2CH3)2), 1.5-2.0 (4H, m, CH2CH2P), 2.7 (1H, bs, D2O exchangeable, OH), 3.35-3.65 (3H, m, OCH2CH), 4.0 (4H, m, (OCH2CH3)2) Found: C, 48.66; H, 9.83%. C14H33O5SiP requires: C, 49.39; H, 9.77%.

reactant | diethyl 3,4-dihydroxybutylphosphonate | 0.038 mol, 8.5 g | OC(CCP(OCC)(OCC)=O)CO | C8H19O5P
reactant | imidazole | 0.077 mol, 5.25 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethysilyl-chloride | 0.038 mol, 5.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | Diethyl [4-(t-butyldimethylsilyloxy)-3-hydroxybutyl]phosphonate | [Si](C)(C)(C(C)(C)C)OCC(CCP(OCC)(OCC)=O)O | C14H33O5PSi
